US07834039B2
A 20 mL microwave vial was charged with 4-(1-cyanocyclopropyl)benzoic acid (720 mg, 3.85 mmol), (Z)-3-chloro-N′-hydroxy-4-isopropoxybenzimidamide (880 mg, 3.85 mmol), DCC (873 mg, 4.23 mmol), HOBT (648 mg, 4.23 mmol), ACN (10 ml), and DIEA (1.478 ml, 8.46 mmol). The vial was capped and heated to 160° C. via microwave irradiation for 25 minutes (max 300 W). Solvent was removed under reduced pressure and crude oil was purified by flash column chromatography (Analogix system, heptane/ethyl acetate, 0-45% ethyl acetate over 30 min; 80 g column, 60 mL/min flow rate). Fractions containing product were combined, rotovapped, and dried in a vacuum oven overnight to give 1-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenyl)cyclopropanecarbonitrile (347 mg, 23.8%) as a yellow solid. LCMS (Table 1, Method c) Rt=3.19 min, m/z 380.43 (M+H)+; 1H NMR (400 MHz, DMSO)) δ ppm 8.22-8.12 (m, 2H), 8.05 (d, 1H), 7.99 (dd, 2.14 Hz, 1H), 7.62-7.55 (m, 2H), 7.38 (d, 1H), 4.82 (td, 1H), 1.90 (q, 2H), 1.67 (q, 2H), 1.38-1.33 (m, 6H).

reactant | 4-(1-cyanocyclopropyl)benzoic acid | 3.85 mmol, 720 mg | C(#N)C1(CC1)C1=CC=C(C(=O)O)C=C1 | C11H9NO2
reactant | (Z)-3-chloro-N′-hydroxy-4-isopropoxybenzimidamide | 3.85 mmol, 880 mg | ClC=1C=C(/C(/N)=N/O)C=CC1OC(C)C | C10H13ClN2O2
reactant | DCC | 4.23 mmol, 873 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 4.23 mmol, 648 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 8.46 mmol, 1.478 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | ACN | 10 ml | C(C)#N | C2H3N
product | 1-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenyl)cyclopropanecarbonitrile | 347 mg, 23.8% | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(C=C1)C1(CC1)C#N | C21H18ClN3O2
